US08614215B2
Intermediate 68: 1-Iodo-4-methoxy-2-nitrobenzene
A mixture of 4-methoxy-2-nitroaniline (20 g, 0.12 mol) and concentrated HCl (30 mL) in water (30 mL) is refluxed for 15 min. The reaction mixture is cooled down to 0° C. in an ice bath. A solution of sodium nitrite (10 g, 0.14 mol) in water (30 mL) is added dropwise over 30 min. The resulting solution is stirred at 0° C. for 30 min then added dropwise to a cold solution of potassium iodide (30 g, 0.18 mol) in water (30 mL). The reaction mixture is heated to reflux for 2 h, cooled down to room temperature and diluted with EtOH (200 mL). The organic phase is washed with 3 N (100 mL) then water and dried over Na2SO4. The solvent is removed under reduced pressure and the crude product is purified by column chromatography using hexane as eluent affording 16 g (88%) of the title compound as a yellow crystalline 1H NMR (DMSO-d6, 400 MHz) δ 7.93-7.91 (m, 1H), 7.54 (s, 1H), 7.04-7.01 (m, 1H), 3.82 (s, 3H).

reactant | 4-methoxy-2-nitroaniline | 0.12 mol, 20 g | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | HCl | 30 mL | Cl | ClH
reactant | sodium nitrite | 0.14 mol, 10 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 0.18 mol, 30 g | [I-].[K+]
solvent | water | 30 mL | O | H2O
solvent | water | 30 mL | O | H2O
solvent | water | 30 mL | O | H2O
solvent | EtOH | 200 mL | CCO | C2H6O
product | 1-Iodo-4-methoxy-2-nitrobenzene | 16 g, 88% | IC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6INO3
